### PR TITLE
chore: modify small birthday instances

### PR DESCRIPTION
**Pull request by plp127**
Split off from #114

### CODE REVIEW

File: CombinatorialGames/Game/Birthday.lean [hunk 1]
```diff
@@ -236,30 +236,37 @@ theorem birthday_miny (x : IGame) : (⧿x).birthday = x.birthday + 2 := by
...
+      fun s : Set {x : IGame.{u} | x.birthday < o} × Set {x : IGame.{u} | x.birthday < o} =>
+        {s.fst | s.snd}ᴵ)
+    refine Set.ext fun i => ⟨fun hi => ?_, fun ⟨⟨l, r⟩, hlr⟩ => ?_⟩
+    · refine ⟨((↑) ⁻¹' i.leftMoves, (↑) ⁻¹' i.rightMoves), ?_⟩
+      rw [mem_setOf, lt_succ_iff, birthday_le_iff] at hi
+      convert ofSets_leftMoves_rightMoves i <;> apply image_preimage_eq_iff.2
+      · simpa using hi.left
+      · simpa using hi.right
+    · rw [mem_setOf, lt_succ_iff, birthday_le_iff, ← hlr]
+      simp +contextual
```
Comment (vihdzp) [inline CombinatorialGames/Game/Birthday.lean]: Nice golf! But you can do even better:
```suggestion
    apply small_subset
      (s := range fun s : Set {x | birthday x < o} × Set {x | birthday x < o} ↦ {s.1 | s.2}ᴵ)
    refine fun x hx ↦ ⟨((↑) ⁻¹' x.leftMoves, (↑) ⁻¹' x.rightMoves), ?_⟩
    simp_rw [lt_succ_iff, birthday_le_iff] at hx
    ext <;> simp_all
```

**Review by vihdzp — APPROVED** [review]
